US08791123B2
(S)-ethyl 2-(tert-butoxycarbonylamino)-5-(5-fluoropyridin-3-yl)-5-oxopentanoate (4.80 g, 13.55 mmol) was treated with TFA (24 mL) and the mixture was stirred at ambient temperature for 45 minutes. The mixture was concentrated and the residue was dissolved in H2O (10 mL) and EtOAc (50 mL) was added. The mixture was treated slowly with saturated aqueous K2CO3 (15 mL). The aqueous layer was separated and the organic layer was washed with 10% aqueous NH4Cl. The EtOAc layer was concentrated to give crude (S)-ethyl 5-(5-fluoropyridin-3-yl)-3,4-dihydro-2H-pyrrole-2-carboxylate as an amber oil (2.67 g, 83% yield). The oil was dissolved in isopropyl alcohol (20 mL) and was treated with 10% Pd/C (0.266 g, 0.250 mmol). The reaction vessel was purged with hydrogen gas (3×) and mixture was stirred at ambient temperature under 1 atm of hydrogen for 16 hours. The reaction was purged with nitrogen and filtered through a Celite pad. The filtrate was concentrated to furnish the title compound as an amber oil that began to solidify upon standing (2.58 g, 96%).

reactant | (S)-ethyl 2-(tert-butoxycarbonylamino)-5-(5-fluoropyridin-3-yl)-5-oxopentanoate | 13.55 mmol, 4.80 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CCC(=O)C=1C=NC=C(C1)F | C17H23FN2O5
reactant | TFA | 24 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-ethyl 5-(5-fluoropyridin-3-yl)-3,4-dihydro-2H-pyrrole-2-carboxylate | 2.67 g, 83% yield | FC=1C=C(C=NC1)C=1CC[C@H](N1)C(=O)OCC | C12H13FN2O2
